US08227504B2
4-Hydroxy-7-methyl-[1,8]naphthyridine-3-carboxylic acid {2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-amide
The title compound was prepared in a manner substantially the same as Example 1 by coupling 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine with 4-hydroxy-7-methyl-[1,8]naphthyridine-3-carboxylic acid. MS: 460.6 (M+H).

reactant | 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)N | C17H27N3
reactant | 4-hydroxy-7-methyl-[1,8]naphthyridine-3-carboxylic acid | OC1=C(C=NC2=NC(=CC=C12)C)C(=O)O | C10H8N2O3
product | 4-Hydroxy-7-methyl-[1,8]naphthyridine-3-carboxylic acid {2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-amide | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)NC(=O)C=1C=NC2=NC(=CC=C2C1O)C | C27H33N5O2
